US08044213B2
To a mixture of 0.041 g (0.089 mmole) of 2-[6-(4-methyl-piperazin-1-ylmethyl)-benzoimidazol-1-yl]-4-phenyl-thiazole-5-carboxylic acid ethyl ester (I.1a), 1 mL of tetrahydrofuran and 1 mL of water was added 0.011 g of lithium hydroxide. The reaction mixture was heated to 60 degrees for 30 minutes and then concentrated under reduced pressure. The mixture was diluted with 5 mL of water and then extracted with 5 mL of ethyl acetate. The pH of the aqueous layer was adjusted to ca 7 by addition of 1M hydrochloric acid and then extracted with 5 mL of ethyl acetate. A precipitate formed in aqueous layer after extraction. The solid was collected by filtration and air dried to give 0.025 g of 2-[6-(4-methyl-piperazin-1-ylmethyl)-benzoimidazol-1-yl]-4-phenyl-thiazole-5-carboxylic acid (I.1b) as an off-white solid.

reactant | 2-[6-(4-methyl-piperazin-1-ylmethyl)-benzoimidazol-1-yl]-4-phenyl-thiazole-5-carboxylic acid ethyl ester | 0.089 mmole, 0.041 g | C(C)OC(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C=C2)CN2CCN(CC2)C)C2=CC=CC=C2 | C25H27N5O2S
reactant | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
reactant | lithium hydroxide | 0.011 g | [OH-].[Li+]
solvent | water | 1 mL | O | H2O
product | 2-[6-(4-methyl-piperazin-1-ylmethyl)-benzoimidazol-1-yl]-4-phenyl-thiazole-5-carboxylic acid | 0.025 g | CN1CCN(CC1)CC=1C=CC2=C(N(C=N2)C=2SC(=C(N2)C2=CC=CC=C2)C(=O)O)C1 | C23H23N5O2S
